US08541404B2
6-Bromo-7-hydroxy-3,4,4a,8a-tetrahydro-1H-quinolin-2-one
This intermediate was obtained according to general procedure I from 7-hydroxy-3,4,4a,8a-tetrahydro-1H-quinolin-2-one (370 mg, 2.27 mmol) and NBS (424 mg, 2.38 mmol) after flash chromatography on silica gel (hexanes/ethyl acetate, 1/1, Rf=0.15) as white solid (500 mg, 2.07 mmol, 91%).

reactant | 7-hydroxy-3,4,4a,8a-tetrahydro-1H-quinolin-2-one | 2.27 mmol, 370 mg | OC=1C=CC2CCC(NC2C1)=O | C9H11NO2
reactant | NBS | 2.38 mmol, 424 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 6-Bromo-7-hydroxy-3,4,4a,8a-tetrahydro-1H-quinolin-2-one | BrC1=CC2CCC(NC2C=C1O)=O | C9H10BrNO2
